US07232821B2
c) 3-{2-[5-methylsulfonyl-2-(hydroxy)-phenyl]-cyclopent-1-enyl}-benzoic acid
A mixture of sodium methanethiolate (700 mg, 10 mmol) and (3-{2-[5-methylsulfanyl-2-(methoxy-)-phenyl]-cyclopent-1-enyl}-benzoic acid ethyl ester (720 mg, 1.96 mmol) in dimethylformamide (15 ml) was stirred and heated at 120° C. under nitrogen for 5 hours. After cooling the mixture was diluted with diethyl ether/water and the aqueous phase separated and acidified with hydrochloric acid then extracted with diethyl ether. The organic phase was dried (MgSO4), evaporated to dryness and the residue triturated with diethyl ether/iso-hexane to yield the title compound as a white solid, (437 mg, 68%).

reactant | sodium methanethiolate | 10 mmol, 700 mg | C[S-].[Na+]
reactant | 3-{2-[5-methylsulfanyl-2-(methoxy-)-phenyl]-cyclopent-1-enyl}-benzoic acid ethyl ester | 1.96 mmol, 720 mg | C(C)OC(C1=CC(=CC=C1)C1=C(CCC1)C1=C(C=CC(=C1)SC)OC)=O | C22H24O3S
reactant | diethyl ether water | C(C)OCC.O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-{2-[5-methylsulfonyl-2-(hydroxy)-phenyl]-cyclopent-1-enyl}-benzoic acid | 437 mg, 68% | CS(=O)(=O)C=1C=CC(=C(C1)C1=C(CCC1)C=1C=C(C(=O)O)C=CC1)O | C19H18O5S
